US09210927B2
Preparation of (E)-2-Bromo-N-(1-methylpiperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide (AC106)
A solution of (E)-2-bromo-N-(piperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide (0.1 g, 0.16 mmol), formaldehyde (30% in water) (0.1 mL, 0.16 mmol) and acetic acid (0.01 mL) in MeOH (5.0 mL) was stirred at ambient temperature for 30 min. After that NaBH3CN (0.01 g, 0.16 mmol) was added at 0° C. and the reaction was stirred for 8 h at ambient temperature. The solvent was removed under reduced pressure to obtain residue which was diluted with ethyl acetate and washed with saturated aq. NaHCO3 solution and brine solution. The combined ethyl acetate layer was dried over Na2SO4 and concentrated under reduced pressure to obtain a residue, which was triturated with diethyl ether/pentane to afford the title compound as a pale yellow gummy material (0.06 g, 59%).

reactant | (E)-2-bromo-N-(piperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzamide | 0.16 mmol, 0.1 g | BrC1=C(C(=O)NC2CCNCC2)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C22H19BrCl3F3N2O
reactant | formaldehyde | 0.16 mmol, 0.1 mL | C=O | CH2O
reactant | acetic acid | 0.01 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.16 mmol, 0.01 g | [BH3-]C#N.[Na+]
solvent | MeOH | 5.0 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-Bromo-N-(1-methylpiperidin-4-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide | BrC1=C(C(=O)NC2CCN(CC2)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C23H21BrCl3F3N2O
